US06599929B2
N-(1-Benzoyl-2,3-dihydro-1H-indole-5-yl)-methanesulfonamide
N-(2,3-dihydro-1H-indole-5-yl)-methanesulfonamide (20 mg, 0.095 mmol) was dissolved in anhydrous dichloromethane (3 ml), sodium hydride (0.010 g, 50% in oil) was added and then, benzolychloride (0.011 ml, 0.095 mmol) was added at a temperature under −20° C. The resulting solution was stirred at the same temperature for 1 hour, stirred again at room temperature for 24 hours to complete the reaction. After pouring water (3 ml), dichloromethane layer was separated, washed with brine, dried over anhydrous magnesium sulfate and then, concentrated under reduced pressure. Afterward, the residue was purified through flash column chromatography (an eluent: ethyl acetate/n-hexane=1/1, v/v) and triturated with isooctane. As a result, the present compound (15 mg, productive yield 50%) was obtained as a solid.

reactant | N-(2,3-dihydro-1H-indole-5-yl)-methanesulfonamide | 0.095 mmol, 20 mg | N1CCC2=CC(=CC=C12)NS(=O)(=O)C | C9H12N2O2S
reactant | sodium hydride | 0.010 g | [H-].[Na+]
reactant | water | 3 ml | O | H2O
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
product | N-(1-Benzoyl-2,3-dihydro-1H-indole-5-yl)-methanesulfonamide | yield 50% | C(C1=CC=CC=C1)(=O)N1CCC2=CC(=CC=C12)NS(=O)(=O)C | C16H16N2O3S
